US04030925
3. 1-Formyl-2-(4-aminophenyl)hydrazine
1-Formyl-2-(4-nitrophenyl)hydrazine (10.2 g, 0.056 mole) and 10% palladium/charcoal (catalytic amount) were suspended in ethanol (500 ml) in a Parr shaker bottle. The reaction mixture was hydrogenated at room temperature until hydrogen uptake ceased. The reaction mixture was filtered and the solvent was evaporated from the filtrate leaving a white crystalline powder. Yield 7.1 g (84%), m.p. 122°-125° C.

reactant | 1-Formyl-2-(4-nitrophenyl)hydrazine | 0.056 mole, 10.2 g | C(=O)NNC1=CC=C(C=C1)[N+](=O)[O-] | C7H7N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 1-Formyl-2-(4-aminophenyl)hydrazine | C(=O)NNC1=CC=C(C=C1)N | C7H9N3O
